US06777395B2
4-Amino-6-bromo-7-(2-O-acetyl-5-O-benzoyl-3-deoxy-3-methyl-β-D-ribofuranosyl)-7H-pyrrolo[ 2,3-d]pyrimidin-5-carbonitrile
BSA (0.29 mL, 2.0 mmol) was added into a stirred suspension of 4-amino-6-bromo-5-cyano-1H-pyrrolo[2,3-d]pyrimidine (0.24 g, 1 mmol; prepared according to Nucleic Acid Chemistry, Part IV, Townsend, L. B. and Tipson, R. S.; Ed.; Wiley-Interscience: New York, 1991, pp. 16-17 and Synthetic Commun. 1998, 28, 3835) in dry acetonitrile (10 mL) at room temperature under argon. After 15 min, 1,2-di-O-acetyl-5-O-benzoyl-3-deoxy-3-methyl-D-ribofuranose (J. Med. Chem. (1976), 19, 1265) (0.36 g, 1.0 mmol) was added along with TMSOTf (0.54 g, 3 mmol). The mixture was stirred at room temperature for 5 min and then at 80° C. for 0.5 h. The solution was cooled, diluted with ethyl acetate (50 mL) and poured into ice-cold saturated aqueous NaHCO3 (15 mL). The layers were separated. The organic layer was washed with brine (15 mL), dried (Na2SO4) and then evaporated. The residue was purified on silica gel column using a solvent system of hexanes/EtOAc: 3/1. Appropriate fractions were collected and evaporated to provide the title compound as colorless foam (0.21 g).

reactant | 4-amino-6-bromo-5-cyano-1H-pyrrolo[2,3-d]pyrimidine | NC1=C2C(NC=N1)=NC(=C2C#N)Br | C7H4BrN5
reactant | 1,2-di-O-acetyl-5-O-benzoyl-3-deoxy-3-methyl-D-ribofuranose | 1.0 mmol, 0.36 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H]([C@H](O1)COC(C1=CC=CC=C1)=O)C | C17H20O7
reactant | TMSOTf | 3 mmol, 0.54 g | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Amino-6-bromo-7-(2-O-acetyl-5-O-benzoyl-3-deoxy-3-methyl-β-D-ribofuranosyl)-7H-pyrrolo[ 2,3-d]pyrimidin-5-carbonitrile | 0.21 g | NC=1C2=C(N=CN1)N(C(=C2C#N)Br)[C@H]2[C@H](OC(C)=O)[C@@H]([C@H](O2)COC(C2=CC=CC=C2)=O)C | C22H20BrN5O5
